US08455475B2
(R)-Methyl 3-(2,3-dichlorophenylsulfonamido)-2,3-dihydro-1H-indene-5-carboxylate (C-06)
N-Ethyl-diisopropylamine (2.5 eq.) and 2,3-dichlorobenzene-1-sulfonyl chloride (1.2 eq.) were added to an ice-cold solution of (3R)-3-amino-2,3-dihydro-1H-indene-5-carboxylic acid methyl ester hydrochloride (A-03 HCl) (0.88 mmol, 1 eq.) in methylene chloride at 0° C. under an inert atmosphere. The mixture was then stirred at room temperature for 3 h. The reaction mixture was diluted with ethyl acetate and the organic phase was washed with 10% NH4Cl solution, sat. NaHCO3 solution and sat. NaCl solution. The organic phase was dried over Na2SO4, filtered and concentrated. The crude product was purified by column chromatography (silica, cyclohexane/ethyl acetate, 2:1) to yield the desired compound (C-06). Yield: 97%

reactant | N-Ethyl-diisopropylamine | 2.5 eq. | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 2,3-dichlorobenzene-1-sulfonyl chloride | 1.2 eq. | ClC1=C(C=CC=C1Cl)S(=O)(=O)Cl | C6H3Cl3O2S
reactant | (3R)-3-amino-2,3-dihydro-1H-indene-5-carboxylic acid methyl ester hydrochloride | 0.88 mmol, 1 eq. | Cl.COC(=O)C=1C=C2[C@@H](CCC2=CC1)N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (R)-Methyl 3-(2,3-dichlorophenylsulfonamido)-2,3-dihydro-1H-indene-5-carboxylate | Yield: 97% | ClC1=C(C=CC=C1Cl)S(=O)(=O)N[C@@H]1CCC2=CC=C(C=C12)C(=O)OC | C17H15Cl2NO4S
